US06878715B1
A suspension of (S)-1-(5-methanesulfonyloxyhexyl)-8-(N-BOC-aminomethyl)-3-methylxanthine (0.47 g, 1.0 mmol) and potassium cyanide (0.39 g, 6.0 mmol) in dimethylsulfoxide (8.0 ml) was stirred at 60° C. overnight. The reaction was quenched by addition of water (30 ml) and extracted with ethyl acetate (3×15 ml). The combined extracts were washed with water (2×15 ml), saturated aqueous sodium chloride solution (15 ml), dried over magnesium sulfate, and concentrated under reduced pressure. The crude product was purified by flash chromatography on silica gel eluting with 15% methanol-ethyl acetate to give (R)-1-(5-cyanohexyl)-8-(N-BOC-aminomethyl)-3-methylxanthine (0.25 g, 62% yield) as an oil.

reactant | (S)-1-(5-methanesulfonyloxyhexyl)-8-(N-BOC-aminomethyl)-3-methylxanthine | 1.0 mmol, 0.47 g | CS(=O)(=O)O[C@H](CCCCN1C(=O)N(C=2N=C(NC2C1=O)CNC(=O)OC(C)(C)C)C)C | C19H31N5O7S
reactant | potassium cyanide | 6.0 mmol, 0.39 g | [C-]#N.[K+]
solvent | dimethylsulfoxide | 8.0 ml | CS(=O)C | C2H6OS
product | (R)-1-(5-cyanohexyl)-8-(N-BOC-aminomethyl)-3-methylxanthine | 0.25 g, 62% yield | C(#N)[C@@H](CCCCN1C(=O)N(C=2N=C(NC2C1=O)CNC(=O)OC(C)(C)C)C)C | C19H28N6O4
